US07531663B2
a) 3-Guanidinocarbonyl-6-methoxy-1-(quinol-4-yl)-1H-indole dihydrochloride
0.87 g (38 mmol) of sodium is added at a temperature in the region of 22° C. under an argon atmosphere to 60 cm3 of methanol. After complete dissolution, 3.6 g (37.5 mmol) of guanidine hydrochloride are added. After stirring at a temperature in the region of 22° C. for 1 hour, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is suspended in 60 cm3 of 1,2-dimethoxyethane. 2.4 g (7.13 mmol) of 3-chlorocarbonyl-6-methoxy-1-(quinol-4-yl)-1H-indole are subsequently added at a temperature in the region of 22° C. under an argon atmosphere. After stirring at reflux for 18 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is triturated in 100 cm3 of water. The suspension is filtered and dried to give a beige-coloured powder which is purified by silica gel chromatography [eluent: dichloromethane/methanol (85/15 by volume)]. After concentrating the fractions under reduced pressure (2.7 kPa), 1.7 g of a beige-coloured foam are obtained, which foam is triturated in 60 cm3 of N hydrochloric acid to provide, after filtration, 1.86 g of 3-guanidinocarbonyl-6-methoxy-1-(quinol-4-yl)-1H-indole dihydrochloride in the form of yellow crystals melting at a temperature of greater than 260° C. Mass spectrum (EI): m/e 359 (M+·), m/e 301. IR spectrum (KBr): 3356, 2587, 1694, 1630, 1595, 1542, 1495, 1441, 1261, 1232, 1192, 823 and 763 cm−1.

reactant | sodium | 38 mmol, 0.87 g | [Na] | Na
reactant | methanol | 60 cm3 | CO | CH4O
reactant | guanidine hydrochloride | 37.5 mmol, 3.6 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-6-methoxy-1-(quinol-4-yl)-1H-indole | 7.13 mmol, 2.4 g | ClC(=O)C1=CN(C2=CC(=CC=C12)OC)C1=CC=NC2=CC=CC=C12 | C19H13ClN2O2
solvent | 1,2-dimethoxyethane | 60 cm3 | COCCOC | C4H10O2
product | 3-Guanidinocarbonyl-6-methoxy-1-(quinol-4-yl)-1H-indole dihydrochloride | Cl.Cl.N(C(=N)N)C(=O)C1=CN(C2=CC(=CC=C12)OC)C1=CC=NC2=CC=CC=C12 | InChI=1S/C20H17N5O2.2ClH/c1-27-12-6-7-13-15(19(26)24-20(21)22)11-25(18(13)10-12)17-8-9-23-16-5-3-2-4-14(16)17;;/h2-11H,1H3,(H4,21,22,24,26);2*1H
